US09283229B2
Step 2: Synthesis of 3-ethoxy-4-iodo-5-nitrobenzaldehyde
To a solution of 2-ethoxy-4-formyl-6-nitrophenyl trifluoromethanesulfonate (4.7 g, 13.7 mmol) in DMSO (10 mL) was added sodium iodide (6.2 g, 41.1 mmol). The mixture was stirred under N2 atmosphere at 3˜10° C. overnight. EtOAc/aqueous workup. Purified by silica gel column chromatography (PE:EtOAc=50:1 to PE:EtOAc=10:1) (4.0 g, yield 91%).

reactant | 2-ethoxy-4-formyl-6-nitrophenyl trifluoromethanesulfonate | 13.7 mmol, 4.7 g | FC(S(=O)(=O)OC1=C(C=C(C=C1[N+](=O)[O-])C=O)OCC)(F)F | C10H8F3NO7S
reactant | sodium iodide | 41.1 mmol, 6.2 g | [I-].[Na+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
product | 3-ethoxy-4-iodo-5-nitrobenzaldehyde | yield 91% | C(C)OC=1C=C(C=O)C=C(C1I)[N+](=O)[O-] | C9H8INO4
